US04455240
A 90/10 acrylamide/dimethyldiallyl ammonium chloride copolymer was prepared as indicated in Examples 1-16. The copolymer was then hydrolyzed by adding a stoichiometric amount of sodium hydroxide to achieve a 70/20/10 terpolymer of acrylic acid/acrylamide/dimethyldiallyl ammonium chloride. The resulting polymer was added to an aqueous clay dispersion and the viscosity and fluid loss were measured as in Examples 1-16. The viscosity (KCL test) at 600 rpm was 10 and at 300 rpm was 5. The fluid loss for 30 minutes was 11.0 ml.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | acrylic acid acrylamide dimethyldiallyl ammonium chloride | C(C=C)(=O)O.C(C=C)(=O)N.[Cl-].C[N+](CC=C)(CC=C)C
product | acrylamide dimethyldiallyl ammonium chloride | C(C=C)(=O)N.[Cl-].C[N+](CC=C)(CC=C)C | InChI=1S/C8H16N.C3H5NO.ClH/c1-5-7-9(3,4)8-6-2;1-2-3(4)5;/h5-6H,1-2,7-8H2,3-4H3;2H,1H2,(H2,4,5);1H/q+1;;/p-1
